US05905071
13d N-[-(N-Carbobenzoxy-O-benzyl-L-glutamyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-octadecyl-dodecanamide.
from N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-dodecanamide and N-carbobenzoxy-O-benzyl-L-glutamic acid.

reactant | N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-dodecanamide | NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C38H75N3O6
reactant | N-carbobenzoxy-O-benzyl-L-glutamic acid | C(=O)(OCC1=CC=CC=C1)N[C@@H](CCC(=O)O)C(=O)OCC1=CC=CC=C1 | C20H21NO6
product | N-[-(N-Carbobenzoxy-O-benzyl-L-glutamyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-octadecyl-dodecanamide | C(=O)(OCC1=CC=CC=C1)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C58H94N4O11
